US06562849B1
5-[4-[5-(3,5-Dimethyl-4-nitrophenylthio)-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy]benzyl]thiazolidine-2,4-dione
To a suspension of sodium hydride (0.12 g, 55% w/w) in N,N-dimethylformamide (6 ml) was added 5-(4-hydroxybenzyl)thiazolidine-2,4-dione (0.31 g). The mixture was stirred at room temperature for 20 minutes. To the reaction mixture was added dropwise a solution of 2-chloromethyl-5-(3,5-dimethyl-4-nitrophenylthio)-3-methyl-3H-imidazo[4,5-b]pyridine (0.51 g) in anyhdrous N,N-dimethylformamide (14 ml). The mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated and neutralized with 3N hydrochloric acid and sodium bicarbonate and then extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on a silica gel column using ethyl acetate as the eluant to afford the desired compound (0.39 g, Rf=0.60: thin layer chromatography on a silica gel plate using ethyl acetate as the eluant).

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 5-(4-hydroxybenzyl)thiazolidine-2,4-dione | 0.31 g | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | 2-chloromethyl-5-(3,5-dimethyl-4-nitrophenylthio)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.51 g | ClCC1=NC=2C(=NC(=CC2)SC2=CC(=C(C(=C2)C)[N+](=O)[O-])C)N1C | C16H15ClN4O2S
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 5-[4-[5-(3,5-Dimethyl-4-nitrophenylthio)-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | CC=1C=C(C=C(C1[N+](=O)[O-])C)SC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2)C | C26H23N5O5S2
